US05360809
3-(3-Biphenylyl)imidazo[5,4-b]pyridine (39a)and 1-(3-biphenylyl)imidazo[4,5b]pyridine oxalate (88a).
A mixture of imidazo[4,5-b]pyridine (595 mg, 5 mmol), 3-bromobiphenyl (1.16 g, 5 mmol), potassium carbonate (1.03 g, 7.5 mmol), and copper powder (2.0 g) in N-methylpyrrolidone (10 ml) was heated to 200° under nitrogen for 4 h. After dilution with ethyl acetate the mixture was filtered through celite. Water was added and the phases were separated. After two more extractions with ethyl acetate the combined organic phases were dried and evaporated to give a light brown oil. Column chromatography on silica gel gave the two products as separate fractions with 1-(3biphenylyl)imidazo[4,5-b]pyridine being the more polar one. This product was precipitated as the oxalate. Yield: 100 mg, 0.3 mmol, 5%. mp 174°-176° C. Yield of 3(3-biphenylyl)imidazo[5,4-b]pyridine: 270 mg, 1 mmol, 20%. mp 89°-91° C.

reactant | imidazo[4,5-b]pyridine | 5 mmol, 595 mg | N1C=NC2=NC=CC=C21 | C6H5N3
reactant | 3-bromobiphenyl | 5 mmol, 1.16 g | BrC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Br
reactant | potassium carbonate | 7.5 mmol, 1.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper | 2.0 g | [Cu] | Cu
product | 3-(3-Biphenylyl)imidazo[5,4-b]pyridine | C1(=CC(=CC=C1)N1C=NC=2C1=NC=CC2)C2=CC=CC=C2 | C18H13N3
